US07173031B2
D) 4-(5-Chloropyrrolo[2,1-f][1,2,4]triazin-4-yloxy)-3-fluorobenzenamine
To a solution of 5-chloro-4-(2-fluoro-4-nitrophenoxy)pyrrolo[2,1-f][1,2,4]triazine (2.00 g, 6.48 mmol) in THF (50 mL)/MeOH (80 mL) was added zinc dust (2.12 g, 32.4 mmol) followed by ammonium chloride (1.73 g, 32.4 mmol). After stirring at rt for 8 h, the reaction mixture was filtered through Celite® with MeOH and then concentrated in vacuo. The residue was taken up in ethyl acetate (200 mL) and washed with water (2×100 mL) then brine (1×100 mL). The organic phase was dried over anhydrous Na2SO4 and concentrated in vacuo. The crude product was purified by flash chromatography on silica gel (50% EtOAc/hexanes) to give the title compound (1.51 g, 84%) as a pale yellow solid. 1H NMR (CDCl3) δ 7.95 (s, 1H), 7.69 (d, 1H, J=2.8 Hz), 7.09 (t, 1H, J=8.4 Hz), 6.79 (d, 1H, J=2.8 Hz), 6.58 (dd, 1H, J=11.6, 2.6 Hz), 6.51 (d, 1H, J=8.7 Hz), 3.92 (br s, 2H); MS(ESI+) m/z 279.2 (M+H)+.

reactant | 5-chloro-4-(2-fluoro-4-nitrophenoxy)pyrrolo[2,1-f][1,2,4]triazine | 6.48 mmol, 2.00 g | ClC=1C=CN2N=CN=C(C21)OC2=C(C=C(C=C2)[N+](=O)[O-])F | C12H6ClFN4O3
reactant | MeOH | 80 mL | CO | CH4O
reactant | ammonium chloride | 32.4 mmol, 1.73 g | [Cl-].[NH4+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | zinc | 32.4 mmol, 2.12 g | [Zn] | Zn
product | 4-(5-Chloropyrrolo[2,1-f][1,2,4]triazin-4-yloxy)-3-fluorobenzenamine | 1.51 g, 84% | ClC=1C=CN2N=CN=C(C21)OC2=C(C=C(C=C2)N)F | C12H8ClFN4O
